US04094908
4-Aminoethyl-α-ethyl-benzhydrol
24 g. of 4-cyano-α-ethyl-benzhydrol are dissolved in 192 ml. of ethanol, and 48 ml. of a 25% aqueous ammonium hydroxide solution and 9.6 g. of Raney-nickel are added. The reaction mixture is hydrogenated at 50° C. After the uptake of the theoretical amount of hydrogen the catalyst is filtered off, and the clear filtrate is evaporated to dryness under reduced pressure. The solid residue is recrystallized from a mixture of n-heptane and benzene to yield 17 g. of 4-aminomethyl-α-ethyl-benzhydrol melting at 97.5°-98.5° C.

reactant | 4-cyano-α-ethyl-benzhydrol | C(#N)C1=CC=C(C(C2=CC=CC=C2)(O)CC)C=C1 | C16H15NO
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | 4-aminomethyl-α-ethyl-benzhydrol | NCC1=CC=C(C(C2=CC=CC=C2)(O)CC)C=C1 | C16H19NO
catalyst | Raney-nickel | [Ni] | Ni
solvent | ethanol | C(C)O | C2H6O
product | 4-Aminoethyl-α-ethyl-benzhydrol | NCCC1=CC=C(C(C2=CC=CC=C2)(O)CC)C=C1 | C17H21NO
